US07547804B2
Synthesis of 5-Chloro-2-hydroxy-N-(3-Methylphenyl)benzamide
A mixture of 5-Chlorosalicylic acid (0.338 g, 1.9 mmol), m-Toluidine (0.2 g, 1.9 mmol) and Tetraethyl pyrophosphite (0.53 g, 2.0 mmol) in dry toluene was refluxed 7 hrs under nitrogen atmosphere. It was diluted with ethyl acetate, washed with HCl (10%) and then with water (3×30 mL). The organic layer was dried (Na2SO4), filtered and evaporated under vacuum. The resulting crude material was purified by column chromatography over SiO2 using mixture of ethyl acetate and hexanes (2:8) to give title compound (0.134 g,) 1H NMR (CDCl3/DMSO-d6) δ 2.38 (s, 3H), 6.89-7.03 (m, 2H), 7.19-7.59 (m, 4H), 8.08 (d, 1H), 9.92 (bs, 1H), 12.05 (s, 1H).

reactant | 5-Chlorosalicylic acid | 1.9 mmol, 0.338 g | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | m-Toluidine | 1.9 mmol, 0.2 g | NC1=CC(=CC=C1)C | C7H9N
reactant | Tetraethyl pyrophosphite | 2.0 mmol, 0.53 g | O(P(OCC)OP(OCC)OCC)CC | C8H20O5P2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-2-hydroxy-N-(3-Methylphenyl)benzamide | 0.134 g | ClC=1C=CC(=C(C(=O)NC2=CC(=CC=C2)C)C1)O | C14H12ClNO2
